US04027029
An amount of 3.67 g (0.010 mole) of 6-phenyl-8-chloro-4H-s-triazolo[1,5-a][1,4]-benzodiazepine-2-carboxylic acid ethyl ester is dissolved at 40° in 300 ml of ethanol, and 50 ml of conc. aqueous ammonia solution is then added. The clear solution is allowed to stand for 24 hours at room temperature and thereupon concentrated at 40° in vacuo. The red residue is suspended in 100 ml of water, filtered under suction, and the filter residue subsequently washed with water. The resulting product is recrystallised from methanol and dried at 100°-120° in vacuo to obtain 6-phenyl-8-chloro-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxamide, M.P. 252°-254°.

reactant | 6-phenyl-8-chloro-4H-s-triazolo[1,5-a][1,4]-benzodiazepine-2-carboxylic acid ethyl ester | 0.010 mole, 3.67 g | C(C)OC(=O)C1=NN2C(CN=C(C3=C2C=CC(=C3)Cl)C3=CC=CC=C3)=N1 | C19H15ClN4O2
reactant | ammonia | 50 ml | N | H3N
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 6-phenyl-8-chloro-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxamide | C1(=CC=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)Cl)N=C(N2)C(=O)N | C17H12ClN5O
